US03992449
Synthesis of γ-Aminopropyl-2,5-dimethoxybenzene
90 g of β-(2,5-Dimethoxyphenyl)acrylonitrile and 500 ml of ethanol containing about 100 g of ammonia were subjected to catalytic reduction inthe presence of Raney nickel under a hydrogen pressure of 80 atm. and at 130° C for 3 hours. After the reaction, distillation under reduced pressure gave 82 g of the end product having a boiling point of 105° ~ 107° C/l mmHg (yield 88.2%).

reactant | β-(2,5-Dimethoxyphenyl)acrylonitrile | 90 g | COC1=C(C=C(C=C1)OC)C=CC#N | C11H11NO2
reactant | ammonia | N | H3N
catalyst | Raney nickel | [Ni] | Ni
solvent | ethanol | 500 ml, about 100 g | C(C)O | C2H6O
product | γ-Aminopropyl-2,5-dimethoxybenzene | 82 g, yield 88.2% | NCCCC1=C(C=CC(=C1)OC)OC | C11H17NO2
